US05530138
N-(1-Azabicyclo[3.3.0]octan-5-yl)methyl-N-formyl-3-phenylaniline
The procedures described in Example 2 were repeated except that 3-formylamino-1,1'-biphenyl (286 mg, 1.45 mmol) and 5-chloromethyl-1-azabicyclo[3.3.0]octane (hydrochloride, 800 mg, 1.53 mmol) were employed. In this case, the desired compound was obtained as pale yellow solids (385 mg, 82.7%).

reactant | 3-formylamino-1,1'-biphenyl | 1.45 mmol, 286 mg | C(=O)NC=1C=C(C=CC1)C1=CC=CC=C1 | C13H11NO
reactant | 5-chloromethyl-1-azabicyclo[3.3.0]octane | 1.53 mmol, 800 mg | ClCC12CCCN2CCC1 | C8H14ClN
product | N-(1-Azabicyclo[3.3.0]octan-5-yl)methyl-N-formyl-3-phenylaniline | N12CCCC2(CCC1)CN(C1=CC(=CC=C1)C1=CC=CC=C1)C=O | C21H24N2O
